US04672066
A solution of 1.44 g of 4-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]-benzoic acid ethyl ester in 18 ml of methanol and 18ml of 1N sodium hydroxide was stirred at reflux for 25 minutes. The methanol was removed in vacuo and the aqueous solution was diluted with water. The pH of solution was adjusted to 2.0 with 3N hydrochloric acid. The precipitate was extracted with methanol. The extract was washed with water, dried (over magnesium sulfate) and concentrated in vacuo to a solid which was treated with ether filtered to give 1.2 g , m.p. 175-176° (90%) of 4-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]-benzoic acid, the title compound.

reactant | 4-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]-benzoic acid ethyl ester | 1.44 g | C(C)OC(C1=CC=C(C=C1)OCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C22H26O6
solvent | methanol | 18 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 18ml | [OH-].[Na+]
product | 4-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]-benzoic acid | 1.2 g, 90% | C(C)(=O)C1=C(C(=C(OCCOC2=CC=C(C(=O)O)C=C2)C=C1)CCC)O | C20H22O6
